US08748446B2
Synthesis of 2-[6-anilino-1,3,5-hexatrienyl]-4,6-diiodo-1,3,3-trimethyl-3H-indolium iodide
100 mg (0.18 mmol) of 4,6-diiodo-1,2,3,3-tetramethyl-3H-indolium iodide and 51 mg (0.18 mmol) of N-[5-(phenylamino)-2,4-pentadienylidene]aniline monohydrochloride were stirred in 2 mL of acetic anhydride at 110-120° C. for 15 min. After cooling the product was precipitated with ether, filtered off and washed with ether. Yield: 67 mg (53%). λmax (abs) 483 nm (methanol). This product was used for following step without additional purification.

reactant | 4,6-diiodo-1,2,3,3-tetramethyl-3H-indolium iodide | 0.18 mmol, 100 mg | [I-].IC1=C2C(C(=[N+](C2=CC(=C1)I)C)C)(C)C
reactant | N-[5-(phenylamino)-2,4-pentadienylidene]aniline monohydrochloride | 0.18 mmol, 51 mg | Cl.C1(=CC=CC=C1)NC=CC=CC=NC1=CC=CC=C1
solvent | acetic anhydride | 2 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-[6-anilino-1,3,5-hexatrienyl]-4,6-diiodo-1,3,3-trimethyl-3H-indolium iodide | [I-].N(C1=CC=CC=C1)C=CC=CC=CC1=[N+](C2=CC(=CC(=C2C1(C)C)I)I)C | InChI=1S/C23H22I2N2.HI/c1-23(2)21(27(3)20-16-17(24)15-19(25)22(20)23)13-9-4-5-10-14-26-18-11-7-6-8-12-18;/h4-16H,1-3H3;1H
